US04130568
A solution of 2.76 g. (0.010 mole) of 7-acetoxy-8-methoxycoumarin-6-acetaldehyde in 30 ml. of 85% phosphoric acid was heated at 100° for 20 min, cooled and partitioned between water/methylene chloride. The aqueous phase was further extracted with methylene chloride. The organic extracts were combined, dried over sodium sulfate, and evaporated to yield 9-methoxy-7H-furo[3,2-g][1]benzopyran-7-one. Purification was achieved by filtration through a silica gel column, eluting with benzene/ethyl acetate, 4:1. The filtrate was evaporated to afford pure end product, mp 145°-146°.

reactant | 7-acetoxy-8-methoxycoumarin-6-acetaldehyde | 0.010 mole | C(C)(=O)OC1=C(C=C2C=CC(OC2=C1OC)=O)CC=O | C14H12O6
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | 9-methoxy-7H-furo[3,2-g][1]benzopyran-7-one | COC1=C2C(=CC=3C=CC(OC31)=O)C=CO2 | C12H8O4
